* ECE334 Lab 4 L3 -- two flip-flops with four inverters between them
*
*   DFF1 -> inv -> inv -> inv -> inv -> DFF2
*
* The maximum clock frequency of this path is
*
*   f_max = 1 / ( t_PCQ + t_logic + t_setup )
*
* Measure t_logic here, take t_PCQ and t_setup from L1 and L2, then raise the
* clock frequency in simulation until DFF2 stops capturing and compare.
*
*   ngspice -b dff_chain.spice

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include include/dff.spice

.param TCLK=20n
.param WN=1 WP=3 LL=0.5

Vdd vdd 0 1.8
Vss vss 0 0
Vsetq   setq   0 0
Vresetq resetq 0 0

Vcl cl 0 PULSE(0 1.8 0 0.5n 0.5n 'TCLK/2' 'TCLK')
Vd  d1 0 PULSE(0 1.8 5n 0.5n 0.5n '2*TCLK' '4*TCLK')

Xff1 d1 cl setq resetq q1 q1b vdd vss dff

* four identical unit inverters
.subckt uinv a y vdd vss
XP y a vdd vdd sky130_fd_pr__pfet_01v8 W={WP} L={LL}
+ ad='0.29*WP' as='0.29*WP' pd='2*(WP+0.29)' ps='2*(WP+0.29)'
XN y a vss vss sky130_fd_pr__nfet_01v8 W={WN} L={LL}
+ ad='0.29*WN' as='0.29*WN' pd='2*(WN+0.29)' ps='2*(WN+0.29)'
.ends
Xi1 q1 n1 vdd vss uinv
Xi2 n1 n2 vdd vss uinv
Xi3 n2 n3 vdd vss uinv
Xi4 n3 d2 vdd vss uinv

Xff2 d2 cl setq resetq q2 q2b vdd vss dff

.ic v(q1)=0 v(q2)=0
.tran 10p 200n

.control
run
set filetype=ascii
write dff_chain.raw v(cl) v(d1) v(q1) v(d2) v(q2)
echo "--- t_logic: four inverters, q1 to d2 ---"
meas tran tlogic_r TRIG v(q1) VAL=0.9 RISE=1 TARG v(d2) VAL=0.9 RISE=1
* d2 carries an extra early edge from the .ic settling, so match the second
* falling crossing rather than the first.
meas tran tlogic_f TRIG v(q1) VAL=0.9 FALL=1 TARG v(d2) VAL=0.9 FALL=2
echo "--- does the second stage still capture? ---"
* Not "do q1 and q2 agree at some instant" -- q2 lags q1 by a whole clock
* cycle by design, so that only measures the lag. When the path stops making
* timing, q2 stops changing at all. Measure the swing.
meas tran q1_swing PP v(q1) FROM=60n TO=200n
meas tran q2_swing PP v(q2) FROM=60n TO=200n
.endc
.end
